US08497281B2
Step 1: 10-bromo-5,6-dihydro-benzo[f]quinoline
The title compound is prepared from 8-bromo-2-tetralone and propargylamine following a procedure analogous to that described in Step 1 of Intermediates 1 and 2. Yield: 49% of theory; LC (method 1): tR=2.68 min; Mass spectrum (ESI+): m/z=260/262 (Br) [M+H]+.

reactant | 8-bromo-2-tetralone | BrC=1C=CC=C2CCC(CC12)=O | C10H9BrO
reactant | propargylamine | C(C#C)N | C3H5N
product | 10-bromo-5,6-dihydro-benzo[f]quinoline | Yield: 49% | BrC1=CC=CC2=C1C=1C=CC=NC1CC2 | C13H10BrN
